### PR TITLE
Comonoids vs cartesian

### PR DESCRIPTION
**Pull request by Kfwullaert**
In this PR, comonoids internal to a (symmetric) monoidal category has been studied.
More precisely:
1. the definitions of comonoids, commutative comonoids and comonoid morphisms; and the categories involved, have been defined;
2. the category of (commutative) comonoids is shown to be a (commutative) monoidal category;
3. some builders for (displayed, symmetric, or cartesian)  monoidal categories have been formalized;
4. a (symmetric monoidal) category of commutative comonoids is shown to be cartesian.

In CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v, two admits are present.
These gaps will be solved, hopefully soon.

### CODE REVIEW

File: UniMath/CategoryTheory/catiso_displayed.v [hunk 1]
```diff
@@ -0,0 +1,200 @@
+Require Import UniMath.Foundations.All.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/catiso_displayed.v:1]: Can this file name be capitalized? In addition, it might fit better in the directory `DisplayedCats`

File: UniMath/CategoryTheory/catiso_displayed.v [hunk 2]
```diff
@@ -0,0 +1,200 @@
...
+Section DisplayedCatIso.
+
+  Context {C : category} (D : disp_cat C).
+
+  Context
+    (uo : ∏ c : C, iscontr (D c)).
+  Context (uf : ∏ (c1 c2 : C) (f : C⟦c1,c2⟧),
+              iscontr (pr1 (uo c1) -->[f] (pr1 (uo c2)))).
+
+  Lemma uf_eq {c1 c2 : C} (f : C⟦c1,c2⟧)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/catiso_displayed.v:23]: What does `uf` stand for?

File: UniMath/CategoryTheory/catiso_displayed.v (hunk 1 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/catiso_displayed.v:1]: Also, can you add a comment describing the contents of this file?

File: UniMath/CategoryTheory/catiso_displayed.v [hunk 3]
```diff
@@ -0,0 +1,200 @@
...
+Require Import UniMath.CategoryTheory.DisplayedCats.Total.
+
+Local Open Scope cat.
+
+Section DisplayedCatIso.
+
+  Context {C : category} (D : disp_cat C).
+
+  Context
+    (uo : ∏ c : C, iscontr (D c)).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/catiso_displayed.v:19]: I feel this assumption can be simplified by using univalence nicely. I would be tended to take the following assumptions:
- `D` is univalent
- above every `c : C`, there is some `cc : D c`
- the type `xx -->[ f ] yy` is contractible
- all morphisms above an isomorphism are isomorphisms (I think that follows from the previous one)

Suppose that we have `cc` and `cc'` above `c`. To show they are equal, we need to construct an isomorphism between them above the identity. This isomorphism exists by the last assumption.

File: UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v [hunk 4]
```diff
@@ -0,0 +1,279 @@
...
+    - exact (λ _ _ _ _ _ _ yy gg, Tr yy gg).
+    - exact Tl_preserves_id.
+    - intro ; intros ; apply Tr_preserves_id.
+    - exact Tl_preserves_comp.
+    - intro ; intros ; apply Tr_preserves_comp.
+    - intro ; intros ; apply T_equalwhiskers.
+  Defined.
+
+  Context (II : D I_{ M})
+    (lulu : disp_leftunitor_data make_symmetric_monoidal_disp_cat_tensor II)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v:193]: Can you either name this `ll` or `lu_lu`?

File: UniMath/CategoryTheory/Monoidal/Comonoids/Comonoids.v [hunk 5]
```diff
@@ -0,0 +1,435 @@
...
+
+Local Open Scope cat.
+
+Import MonoidalNotations.
+
+Section ComonoidsAndMorphisms.
+
+  Context {C : category} (M : monoidal C).
+
+  Notation "x ⊗ y" := (x ⊗_{M} y).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/Comonoids.v:35]: If you want to use this notation, then why not use the bundled approach? https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/Monoidal/Categories.v#L1301

For the bundled approach, we have this notation, and the whole infrastructure is built around it.

The advantage of the displayed approach is that it is more flexible, because one can directly express what a monoidal structure over a category is. This is necessary to define a displayed bicategory of monoidal structures In addition, it is also useful for theorems that express when an adjunction is monoidal.

The advantage of the bundled approach is that one can simplify the notation and work directly with it. With both approaches established, one can choose which one is the most fitting in certain context, because switching between them is not too difficult (calling the functions is a bit different, but still fien).

I think that the bundled approach is more appropriate here.

File: UniMath/CategoryTheory/Monoidal/Comonoids/Comonoids.v [hunk 6]
```diff
@@ -0,0 +1,435 @@
...
+  Let ruinv : rightunitorinv_data M (monoidal_unit M) := monoidal_rightunitorinvdata M.
+  Let αinv : associatorinv_data M := monoidal_associatorinvdata M.
+
+  Definition comonoid_data (x : C) : UU
+    := C⟦x, x ⊗ x⟧ × C⟦x, I⟧.
+
+  Definition comonoid_data_comultiplication {x : C} (m : comonoid_data x)
+    : C⟦x, x ⊗ x⟧
+    := pr1 m.
+  Notation "μ_{ m }" := (comonoid_data_comultiplication m).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/Comonoids.v:54]: better to name it \delta instead of \mu

File: UniMath/CategoryTheory/Monoidal/Comonoids/Comonoids.v [hunk 7]
```diff
@@ -0,0 +1,435 @@
...
+
+  Definition comonoid_data_counit {x : C} (m : comonoid_data x)
+    : C⟦x, I⟧
+    := pr2 m.
+  Notation "η_{ m }" := (comonoid_data_counit m).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/Comonoids.v:59]: better to name it epsilon instead of eta

File: UniMath/CategoryTheory/Monoidal/Comonoids/Comonoids.v [hunk 8]
```diff
@@ -0,0 +1,435 @@
...
+        apply (pr2 pg).
+      }
+      apply (pr2 pf).
+  Qed.
+
+End ComonoidsAndMorphisms.
+
+Module ComonoidNotations.
+
+  Notation "μ_{ m }" := (comonoid_data_comultiplication _ m).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/Comonoids.v:171]: Delta and epsilon are better

File: UniMath/CategoryTheory/Monoidal/Comonoids/Comonoids.v [hunk 9]
```diff
@@ -0,0 +1,435 @@
...
+  Notation "η_{ m }" := (comonoid_data_counit _ m).
+
+End ComonoidNotations.
+
+Section ComonoidAux.
+
+  Context {C : category} (M : monoidal C).
+
+  Notation "x ⊗ y" := (x ⊗_{M} y).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/Comonoids.v:180]: Here the bundled approach is more fitting as well.

File: UniMath/CategoryTheory/Monoidal/Comonoids/Comonoids.v [hunk 10]
```diff
@@ -0,0 +1,435 @@
...
+    now rewrite id_right.
+  Qed.
+
+End ComonoidAux.
+
+Section CommutativeComonoids.
+
+  Context {C : category} {M : monoidal C} (S : symmetric M).
+
+  Notation "x ⊗ y" := (x ⊗_{M} y).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/Comonoids.v:245]: Same as above

File: UniMath/CategoryTheory/Monoidal/Comonoids/Comonoids.v (hunk 5 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/Comonoids/Comonoids.v:35]: It is even possible to solve this using a `let`. You could write `Let M' : monoidal_cat := C ,, M.` and use `M` in the remainder. This way calling the function remains the same.

File: UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsMonoidalCategory.v [hunk 11]
```diff
@@ -0,0 +1,818 @@
...
+Require Import UniMath.CategoryTheory.Monoidal.Comonoids.ComonoidsCategory.
+
+Local Open Scope cat.
+Import MonoidalNotations.
+
+Section SymmetricMonoidalCategoryOfComonoids.
+
+  Context {C : category} {M : monoidal C} (S : symmetric M).
+
+  Notation "x ⊗ y" := (x ⊗_{M} y).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsMonoidalCategory.v:44]: The bundled approach might be better

File: UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsMonoidalCategory.v [hunk 12]
```diff
@@ -0,0 +1,818 @@
...
+    (xx : comonoid M x) (yy : comonoid M y) (zz : comonoid M z)
+    : is_comonoid_mor M (tensor_of_comonoids xx (tensor_of_comonoids yy zz))
+        (tensor_of_comonoids (tensor_of_comonoids xx yy) zz) αinv^{M}_{x, y, z}.
+  Proof.
+    split.
+    - exact (comonoid_disp_associatorinv_mult xx yy zz).
+    - exact (comonoid_disp_associatorinv_unit xx yy zz).
+  Qed.
+
+  Definition comonoid_disp_symmetric_monoidal
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsMonoidalCategory.v:703]: I am thinking of whether it is possible to simplify this construction. Note the following:
- We have a functor `F : C -> C` which sends `X` to `X \otimes X`. If `C` is symmertic, then this functor is strong monoidal.
- We have a functor `G : C -> C` which sends `X` to `I`. This functor is monoidal because `I` is the unit
- We can take the dialgebras for identity and `F`, this gives the comultiplication, and for the identity and `G`, which gives the counit.
- We take a product of these displayed categories, and we have the data of comonoids.
- Afterwards, we take a full subcategory for the laws.

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v [hunk 13]
```diff
@@ -0,0 +1,354 @@
...
+Require Import UniMath.CategoryTheory.Monoidal.Structure.SymmetricDiagonal.
+
+Require Import UniMath.CategoryTheory.Monoidal.Comonoids.Comonoids.
+Require Import UniMath.CategoryTheory.Monoidal.Comonoids.ComonoidsCategory.
+Require Import UniMath.CategoryTheory.Monoidal.Comonoids.ComonoidsMonoidalCategory.
+
+Local Open Scope cat.
+Import MonoidalNotations.
+
+(* Definition make_section_into_comonoids
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v:34]: Is this one needed?

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v [hunk 14]
```diff
@@ -0,0 +1,354 @@
...
+    unfold section_disp.
+    use tpair.
+    - exists m.
+      exact mf.
+    - split ; intro ; intros ; apply isaprop_is_comonoid_mor.
+  Defined. *)
+
+Section CartesianBuilder.
+
+  Context {C : category} (M : monoidal C).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v:46]: The bundled approach might be nicer here. The reason why I prefer the bundled approach, is that it allows to define the relevant notation globally. However, now you need to manage the notation in every section (including levels).

**Review by nmvdw — APPROVED** [review]
I think there are several points where the code can be simplified. One construction can be simplified and some notation can be simplified.

File: UniMath/CategoryTheory/catiso_displayed.v (hunk 2 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/catiso_displayed.v:23]: It does not have a specific meaning. I called uo the "section on objects" and because I usually denote morphisms as f, I just changed uo to uf.

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v (hunk 13 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v:34]: No, that is why it is commented out. Should I remove it?

**Comment by Kfwullaert** [comment]
@nmvdw In the latest commit, I have redefined the category of comonoids in terms of dialgebras (as you suggested).

File: UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsMonoidal.v [hunk 15]
```diff
@@ -29,17 +29,20 @@ Require Import UniMath.CategoryTheory.Monoidal.Structure.Cartesian.
...
 
 Section SymmetricMonoidalCategoryOfComonoids.
 
-  Context {C : category} {M : monoidal C} (S : symmetric M).
+  Context (V : sym_monoidal_cat).
+  Let C : category := V.
+  Let M : monoidal C := V.
+  Let S : symmetric M := pr2 V.
 
   Notation "x ⊗ y" := (x ⊗_{M} y).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsMonoidal.v:47]: This notation should be redundant now.

File: UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsMonoidal.v [hunk 16]
```diff
@@ -29,17 +29,20 @@ Require Import UniMath.CategoryTheory.Monoidal.Structure.Cartesian.
...
   Notation "x ⊗l f" := (x ⊗^{M}_{l} f) (at level 31).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsMonoidal.v:48]: What about adding this notation globally?

File: UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsMonoidal.v [hunk 17]
```diff
@@ -456,19 +459,19 @@ Section SymmetricMonoidalCategoryOfComonoids.
...
+        apply (tensor_sym_mon_braiding).
       }
       rewrite ! assoc'.
       apply comult_before_rearrange_and_swap.
     - unfold is_comonoid_mor_unit.
       cbn.
       rewrite ! assoc.
       apply maponpaths_2.
-      etrans. { apply pathsinv0, (tensor_sym_mon_braiding ((C,,M),,S)). }
+      etrans. { apply pathsinv0, (tensor_sym_mon_braiding V). }
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsMonoidal.v:470]: Did `rewrite <- tensor_sym_mon_braiding` work here?

File: UniMath/CategoryTheory/Monoidal/Comonoids/CommComonoidsCartesian.v [hunk 18]
```diff
@@ -35,17 +36,18 @@ Import ComonoidNotations.
 Section CartesianMonoidalCategoryOfCommutativeComonoids.
 
   Context {C : category} {M : monoidal C} (S : symmetric M).
+  Let V : sym_monoidal_cat := (C,,M),,S.
 
   Lemma diagonal_is_comonoid_mor_mult
     {x : C} {m : comonoid M x} (c : is_commutative S m)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/CommComonoidsCartesian.v:42]: `x : V` might be nicer than `x : C` here

File: UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v [hunk 19]
```diff
@@ -0,0 +1,601 @@
...
+
+Local Open Scope cat.
+
+Import MonoidalNotations.
+
+Section DiagFunctor.
+
+  Context (V : sym_monoidal_cat).
+
+  Notation "x ⊗ y" := (monoidal_cat_tensor_pt x y).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v:50]: This notation is redundant.

File: UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v [hunk 20]
```diff
@@ -0,0 +1,601 @@
...
+  Notation "f ⊗⊗ g" := (monoidal_cat_tensor_mor f g) (at level 31).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v:51]: This notation is redundant and I think another one was used.

File: UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v [hunk 21]
```diff
@@ -0,0 +1,601 @@
...
+
+
+  Definition V_counit
+    : disp_monoidal (dialgebra_disp_cat (functor_identity V) (constant_functor _ _ I_{V})) V.
+  Proof.
+    use (dialgebra_disp_monoidal (identity_fmonoidal V)
+           (constant_functor_fmonoidal V unit_monoid _ _)).
+    - refine (_ ,, _).
+      apply (monoidal_leftunitorisolaw V).
+    - apply Isos.identity_is_z_iso.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v:352]: Imports should be managed

**Review by nmvdw — APPROVED** [review]

**Comment by nmvdw** [comment]
> @nmvdw In the latest commits, I have redefined the category of comonoids in terms of dialgebras (as you suggested).

Which construction do you prefer?

**Comment by Kfwullaert** [comment]
> > @nmvdw In the latest commits, I have redefined the category of comonoids in terms of dialgebras (as you suggested).
> 
> Which construction do you prefer?

I prefer the dialgebra construction for multiple reasons, such as the possibility to reuse the constructions/results of dialgebras.

**Comment by rmatthes** [comment]
I also used dialgebras for the Eilenberg-Moore construction given a symmetric monoidal comonad (as suggested by @nmvdw ).

File: UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v [hunk 22]
```diff
@@ -0,0 +1,449 @@
...
+    etrans.
+    2: {
+      apply (bifunctor_distributes_over_id (F := M)) ; apply M.
+    }
+    apply maponpaths.
+    apply (semi_cart_to_unit_eq Ccart).
+  Qed.
+
+  Lemma cartesian_lunitor (x : C)
+    : semi_cart_tensor_pr2 (pr1 Ccart) I_{ M} x = lu^{M}_{x}.
```
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v:91]: Semi-cartesian means that the unit is a terminal object. In that case, we can make a first and second projections from the tensor: so `semi_cart_tensor_pr1 : x \otimes y -> x` and `semi_cart_tensor_pr2 : x \otimes y -> y`. These were defined outside of this PR: https://github.com/UniMath/UniMath/blob/56465756fba8e2079389b3e57c13ec082fbf1239/UniMath/CategoryTheory/Monoidal/Structure/Cartesian.v#L61.

To formulate cartesianness, we say that these two functions turn `x \otimes y` into a product.

What name would you prefer for this function?

File: UniMath/CategoryTheory/Monoidal/Comonoids/CommComonoidsCartesian.v [hunk 23]
```diff
@@ -0,0 +1,194 @@
...
+Require Import UniMath.CategoryTheory.Monoidal.Comonoids.MonoidalCartesianBuilder.
+
+Local Open Scope cat.
+Import MonoidalNotations.
+Import ComonoidNotations.
+
+Section CartesianMonoidalCategoryOfCommutativeComonoids.
+
+  Context {C : category} {M : monoidal C} (S : symmetric M).
+  Let V : sym_monoidal_cat := (C,,M),,S.
```
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/Comonoids/CommComonoidsCartesian.v:39]: There is not. Note: in the parts where `sym_monoidal_cat` is used the most often, the bundled approach is used consistently, so in those parts, the context solely consists of `V : sym_monoidal_cat`.

File: UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsMonoidal.v [hunk 24]
```diff
@@ -0,0 +1,824 @@
...
+  Let I : C := monoidal_unit M.
+  Let lu : leftunitor_data M (monoidal_unit M) := monoidal_leftunitordata M.
+  Let ru : rightunitor_data M (monoidal_unit M) := monoidal_rightunitordata M.
+  Let α : associator_data M := monoidal_associatordata M.
+  Let luinv : leftunitorinv_data M (monoidal_unit M) := monoidal_leftunitorinvdata M.
+  Let ruinv : rightunitorinv_data M (monoidal_unit M) := monoidal_rightunitorinvdata M.
+  Let αinv : associatorinv_data M := monoidal_associatorinvdata M.
+
+  Notation "σ_{ x , y }" := (monoidal_braiding_data (symmetric_to_braiding S) x y).
+  Notation "μ_{ m }" := (comonoid_data_comultiplication _ m).
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsMonoidal.v:61]: The comonoid here still has components called $\mu$ and $\eta$.

File: UniMath/CategoryTheory/Monoidal/Comonoids/Comonoids.v [hunk 25]
```diff
@@ -0,0 +1,435 @@
...
+
+Require Import UniMath.CategoryTheory.Monoidal.WhiskeredBifunctors.
+Require Import UniMath.CategoryTheory.Monoidal.Categories.
+Require Import UniMath.CategoryTheory.Monoidal.Structure.Symmetric.
+Require Import UniMath.CategoryTheory.Monoidal.Structure.SymmetricDiagonal.
+Require Import UniMath.CategoryTheory.Monoidal.Structure.Cartesian.
+Require Import UniMath.CategoryTheory.Monoidal.Displayed.WhiskeredDisplayedBifunctors.
+Require Import UniMath.CategoryTheory.Monoidal.Displayed.Monoidal.
+Require Import UniMath.CategoryTheory.Monoidal.Displayed.TotalMonoidal.
+Require Import UniMath.CategoryTheory.Monoidal.Displayed.Symmetric.
```
[the remark this answers is not in the document]
Comment (Kfwullaert) [reply UniMath/CategoryTheory/Monoidal/Comonoids/Comonoids.v:25]: You are completely right. This is something that I'm going to adapt soon.

File: UniMath/CategoryTheory/DisplayedCats/CatIsoDisplayed.v [hunk 26]
```diff
@@ -0,0 +1,286 @@
...
+      }
+      exact p.
+  Qed.
+
+  Lemma weq_hom
+    {c1 : C} {c2 : C}
+    (d1 : D c1)
+    (d2 : D c2)
+    (f : C ⟦ c1, c2 ⟧)
+    : ∃! x : ∑ f0 : C ⟦ c1, c2 ⟧, d1 -->[ f0] d2, pr1 x = f.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/CatIsoDisplayed.v:91]: Would it be possible to use parentheses here?

File: UniMath/CategoryTheory/DisplayedCats/CatIsoDisplayed.v [hunk 27]
```diff
@@ -0,0 +1,286 @@
...
+      {
+        intro.
+        apply isapropifcontr.
+        apply uf0.
+      }
+      exact q.
+  Qed.
+
+  Lemma weq_ob (c : C)
+    : ∃! x : ∑ x : C, D x, pr1 x = c.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/CatIsoDisplayed.v:112]: And here

File: UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v [hunk 28]
```diff
@@ -0,0 +1,449 @@
...
+    etrans.
+    2: {
+      apply (bifunctor_distributes_over_id (F := M)) ; apply M.
+    }
+    apply maponpaths_2.
+    apply (semi_cart_to_unit_eq Ccart).
+  Qed.
+
+  Lemma identity_of_rwhisker_with_unit (x : C)
+    :  monoidal_cat_tensor_mor (V := C,,M) (identity x) (aug I_{ M})
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v:79]: The notation that I developed for monoidal categories can be used here: #⊗. Also, use `x : V` so that you take full advantage of the bundled approach.

File: UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v (hunk 22 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v:91]: It can be a bit misleading, because if one only has semi-cartesianess, then the tensor is not necessarily a product.

File: UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v [hunk 29]
```diff
@@ -0,0 +1,449 @@
...
+      }
+      rewrite assoc.
+      refine (_ @ id_left _).
+      apply maponpaths_2.
+      unfold diag.
+      refine ((BinProductPr2Commutes) _ _ _ (is_cartesian_BinProduct Ccart _ _) _ _ _).
+  Qed.
+
+  Lemma diag_is_symmetric (x : C)
+    :  diag x · cartesian_to_braiding_data Ccart x x = diag x.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v:232]:
```suggestion
    : diag x · cartesian_to_braiding_data Ccart x x = diag x.
```

File: UniMath/CategoryTheory/Monoidal/Comonoids/CommComonoidsCartesian.v [hunk 30]
```diff
@@ -0,0 +1,194 @@
...
+    {x : C} {m : comonoid M x} (c : is_commutative S m)
+    : comonoid_data (sym_monoidal_cat_commutative_comonoids V) (x,,m,,c).
+  Proof.
+    refine (_ ,, _).
+    - refine (pr11 m ,, (_ ,, tt) ,, tt).
+      split ; cbn.
+      + refine (diagonal_is_comonoid_mor_mult c @ _).
+        apply maponpaths.
+        cbn.
+        unfold MonoidalDialgebras.dialgebra_disp_tensor_op.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/CommComonoidsCartesian.v:97]: Manage the imports so that you don't have to qualify.

File: UniMath/CategoryTheory/Monoidal/Comonoids/CommComonoidsCartesian.v [hunk 31]
```diff
@@ -0,0 +1,194 @@
...
+        apply maponpaths_2.
+        apply pathsinv0, id_left.
+      + refine (_ @ ! diagonal_is_comonoid_mor_unit m @ _).
+        * apply id_right.
+        * cbn.
+          apply maponpaths.
+          unfold MonoidalDialgebras.dialgebra_disp_tensor_op.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/CommComonoidsCartesian.v:104]: Manage the imports so you don't have to qualify

File: UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v (hunk 20 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v:51]: #⊗ is the right one

File: UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v [hunk 32]
```diff
@@ -0,0 +1,601 @@
...
+    use make_functor_data.
+    - exact (λ x, x ⊗ x).
+    - exact (λ _ _ f, f ⊗⊗ f).
+  Defined.
+
+  Lemma diag_is_functor
+    : is_functor diag_functor_data.
+  Proof.
+    split ; intro ; intros.
+    - apply (bifunctor_distributes_over_id (F := V)) ; apply (pr21 V).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v:65]: With the bundled approach, these laws have slight different names. You can the appropriate one in `Monoidal.Categories.v`, and there's no need to mention the bifunctor directly.

File: UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v [hunk 33]
```diff
@@ -0,0 +1,601 @@
...
+
+  Definition diag_functor_fmonoidal_lax
+    : fmonoidal_lax V V diag_functor.
+  Proof.
+    exists diag_functor_fmonoidal_data.
+    exact diag_functor_fmonoidal_laxlaws.
+  Defined.
+
+  Definition diag_functor_is_strong_fmonoidal
+    :  fmonoidal_stronglaws
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v:207]:
```suggestion
    : fmonoidal_stronglaws
```

File: UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v [hunk 34]
```diff
@@ -0,0 +1,601 @@
...
+    exact diag_functor_is_strong_fmonoidal.
+  Defined.
+
+  Definition diag_functor_is_symmetric
+    : is_symmetric_monoidal_functor (pr2 V) (pr2 V) diag_functor_fmonoidal.
+  Proof.
+    intro ; intro.
+    apply pathsinv0.
+    apply (rearrange_commute_with_swap (pr2 V)).
+  Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v:232]:
```suggestion
 Qed.
```

File: UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v [hunk 35]
```diff
@@ -0,0 +1,601 @@
...
+
+  Definition constant_functor_fmonoidal
+    : fmonoidal V V (constant_functor _ _ x).
+  Proof.
+    exists constant_functor_fmonoidal_lax.
+    exact constant_functor_fmonoidal_strong.
+  Defined.
+
+  Definition constant_functor_is_symmetric
+               (m_is_comm : (pr12 V) x x · pr11 m = pr11 m)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v:295]: What is `pr12 V`? The notation should be used. It might be `sym_mon_braiding`

File: UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v [hunk 36]
```diff
@@ -0,0 +1,601 @@
...
+    : is_symmetric_monoidal_functor (pr2 V) (pr2 V) constant_functor_fmonoidal.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/ComonoidsCategoryAsDialg.v:296]: Does `V` work instead of `pr2 V`? If not, can you add the appropriate coercion?

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v [hunk 37]
```diff
@@ -0,0 +1,359 @@
...
+    - split ; intro ; intros ; apply isaprop_is_comonoid_mor.
+  Defined. *)
+
+Section CartesianBuilder.
+
+  Context (V : monoidal_cat).
+  Let C : category := V.
+  Let M : monoidal C := V.
+
+  Notation "x ⊗ y" := (x ⊗_{M} y).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v:50]: These lines are mostly redundant, because the notation is already available.

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v [hunk 38]
```diff
@@ -0,0 +1,359 @@
...
+  Notation "x ⊗l f" := (x ⊗^{M}_{l} f) (at level 31).
+  Notation "f ⊗r y" := (f ⊗^{M}_{r} y) (at level 31).
+  Notation "f ⊗⊗ g" := (f ⊗^{M} g) (at level 31).
+
+  Let I : C := monoidal_unit M.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v:55]: These also are redundant. Use `mon_lunitor`, `mon_lassociator` and so on instead.

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v [hunk 39]
```diff
@@ -0,0 +1,359 @@
...
+  Let α : associator_data M := monoidal_associatordata M.
+  Let luinv : leftunitorinv_data M (monoidal_unit M) := monoidal_leftunitorinvdata M.
+  Let ruinv : rightunitorinv_data M (monoidal_unit M) := monoidal_rightunitorinvdata M.
+  Let αinv : associatorinv_data M := monoidal_associatorinvdata M.
+
+  Context
+    (m : ∏ x : C, comonoid M x)
+      (mf : ∏ (x y : C) (f : C⟦x,y⟧), is_comonoid_mor M (m x) (m y) f).
+
+  Notation "∇_{ x }" := (pr11 (m x)).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v:67]: Projections of monoids should be named.

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v [hunk 40]
```diff
@@ -0,0 +1,359 @@
...
+      refine (_ @ pr12 (m z)) ; cbn.
+      apply maponpaths_2, maponpaths.
+      apply (when_bifunctor_becomes_rightwhiskering M).
+    Qed.
+
+    Context (p : ∇_{x ⊗ y} · ((x ⊗l !_{y}) ⊗⊗ (!_{x} ⊗r y)) · (ru x ⊗⊗ lu y)
+                 = identity (x ⊗ y)).
+    Lemma make_is_binprod_from_comonoids_uniqueness
+      (f : C ⟦ z, x ⊗ y ⟧)
+      (px : f · (identity x ⊗^{ M} !_{y} · ru x) = fx)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v:177]: In the top of the file, notation was defined, but here it is not used. 

I think all notation regarding tensors/associators/unitor that is defined in any section of this section, should be deleted.

**Review by nmvdw — APPROVED** [review]

File: UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v [hunk 41]
```diff
@@ -0,0 +1,449 @@
...
+    unfold semi_cart_tensor_pr2.
+    refine (assoc _ _ _ @ _).
+    refine (_ @ mon_linvunitor_lunitor (V := C,,M) x).
+    apply maponpaths_2.
+    refine (_ @ cartesian_linvunitor' x).
+    apply maponpaths.
+    apply (when_bifunctor_becomes_rightwhiskering M).
+  Qed.
+
+  (* Lemma diagonal_commutes_with_assoc (x : C)
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v:259]: I see the lemma is the equation of the new hypothesis in the context, but without the leading diag x on both sides. If the lemma is supposed to hold, one should better name the hypothesis with a suffix indicating that this is only an instance of a provable law.

Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v:259]: I now think that the lemma is not true. But I have a proof of the hypothesis - a PR to @Kfwullaert 's fork.

**Comment by Kfwullaert** [comment]
I have reorganized the code, however, small syntactic changes might need to happen, as already noticed by e.g., @nmvdw @benediktahrens . In particular, the comments made before have not yet been fully addressed (even though they are probably now outdated. I'll let you known when your comments have been taken into account.

**Comment by Kfwullaert** [comment]
@benediktahrens @rmatthes @nmvdw 
I think I have addressed every comment made by you.

File: UniMath/CategoryTheory/Monoidal/Comonoids/CommComonoidsCartesian.v [hunk 42]
```diff
@@ -0,0 +1,163 @@
...
+    (m : commutative_comonoid V)
+    : comonoid (symmetric_cat_commutative_comonoids V).
+  Proof.
+    exists m.
+    exists (pr2 (commutative_comonoid_to_comonoid_of_comonoids_data m)).
+    exact (commutative_comonoid_to_comonoid_of_comonoids_laws m).
+  Defined.
+
+  Definition comonoid_mor_is_comonoid_mor {x y : commutative_comonoid V} (f : _⟦x,y⟧)
+    :  comonoid_mor_struct (symmetric_cat_commutative_comonoids V)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/CommComonoidsCartesian.v:128]:
```suggestion
    : comonoid_mor_struct (symmetric_cat_commutative_comonoids V)
```

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v [hunk 43]
```diff
@@ -0,0 +1,350 @@
...
+    intro ; apply terminal_from_aug_id.
+    assumption.
+  Defined.
+
+  Section make_cartesian.
+
+    Context (pI : εI = identity (monoidal_unit V))
+      {x y z : V} (fx : V⟦z, x⟧) (fy : V⟦z, y⟧).
+
+    Let δx := δ_{(x ,, m x) : comonoid V}.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v:83]: Can you add types for these?

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v [hunk 44]
```diff
@@ -0,0 +1,350 @@
...
+    Let εz := ε_{(z ,, m z) : comonoid V}.
+
+    Definition make_isbinprod_from_comonoid_existence_mor
+      : V⟦z, x ⊗_{V} y⟧
+      := δz · fx ⊗^{V} fy.
+
+    Let k := make_isbinprod_from_comonoid_existence_mor.
+
+    Lemma make_is_binprod_from_comonoids_existence_mor_1
+      : δz · fx ⊗^{V} fy · (identity x ⊗^{V} εy · ru^{V}_{x}) = fx.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v:97]: Use `#⊗`

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v [hunk 45]
```diff
@@ -0,0 +1,350 @@
...
+      rewrite ! assoc.
+      refine (_ @ id_left _).
+      apply maponpaths_2.
+      refine ( _ @ comonoid_to_law_unit_right V _).
+      apply maponpaths_2, maponpaths.
+      apply (when_bifunctor_becomes_leftwhiskering V).
+    Qed.
+
+    Lemma make_is_binprod_from_comonoids_existence_mor_2
+      : δz · fx ⊗^{V} fy · (εx ⊗^{V} identity y · lu^{V}_{y}) = fy.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v:130]: Use `#⊗` and you can use `mon_lunitor`

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v [hunk 46]
```diff
@@ -0,0 +1,350 @@
...
+      apply maponpaths_2, maponpaths.
+      apply (when_bifunctor_becomes_rightwhiskering V).
+    Qed.
+
+    Context (p : identity (x ⊗_{V} y) =
+                   δ_{(x ⊗_{V} y ,, m _) : comonoid V}
+                     · ((identity x ⊗^{V} εy) ⊗^{V} (εx ⊗^{V} identity y) · ru^{V}_{x} ⊗^{V} lu^{V}_{y})).
+
+    Lemma make_is_binprod_from_comonoids_uniqueness
+      (f : V⟦z, x ⊗_{V} y⟧)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v:167]: Use `⊗` and `#⊗`

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v [hunk 47]
```diff
@@ -0,0 +1,350 @@
...
+      apply maponpaths.
+      apply p.
+    Qed.
+
+  End make_cartesian.
+
+  Lemma monoidal_is_binproduct_from_comonoid
+    (pI : εI = identity (monoidal_unit V))
+    (pT : ∏ x y : V,
+          δ_{(x ⊗_{V} y ,, m _) : comonoid V} · ((identity x ⊗^{V} ε_{(y ,, m y) : comonoid V}) ⊗^{V} (ε_{(x ,, m x) : comonoid V} ⊗^{V} identity y) · ru^{V}_{x} ⊗^{V} lu^{V}_{y})
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v:207]: You can use `⊗` and `#⊗`

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v [hunk 48]
```diff
@@ -0,0 +1,350 @@
...
+    - intro f.
+      use subtypePath.
+      { intro ; apply isapropdirprod ; apply homset_property. }
+      exact (make_is_binprod_from_comonoids_uniqueness fx fy (! pT x y) (pr1 f) (pr12 f) (pr22 f)).
+  Qed.
+
+  Definition monoidal_is_cartesian_from_comonoid
+    (pI : εI = identity (monoidal_unit V))
+    (pT : ∏ x y : V,
+          δ_{(x ⊗_{V} y ,, m _) : comonoid V} · ((identity x ⊗^{V} ε_{(y ,, m y) : comonoid V}) ⊗^{V} (ε_{(x ,, m x) : comonoid V} ⊗^{V} identity y) · ru^{V}_{x} ⊗^{V} lu^{V}_{y})
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v:227]: You can use `⊗` and `#⊗`

File: UniMath/CategoryTheory/Monoidal/Comonoids/Symmetric.v [hunk 49]
```diff
@@ -0,0 +1,103 @@
...
+      + exact (pr2 V).
+      + apply is_symmetric_monoidal_identity.
+      + apply constant_functor_is_symmetric.
+        refine (sym_mon_braiding_lunitor _ _ @ _).
+        apply pathsinv0.
+        apply unitors_coincide_on_unit.
+  Defined.
+
+  Definition disp_symmetric_comonoids
+    : disp_symmetric (disp_monoidal_comonoids V) (pr2 V).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/Symmetric.v:73]: You should be able to use `V` instead of `pr2 V`

File: UniMath/CategoryTheory/Monoidal/Comonoids/Tensor.v [hunk 50]
```diff
@@ -0,0 +1,746 @@
...
+
+  Context (M : sym_monoidal_cat).
+
+  Definition tensor_of_comonoids_data
+    (mx my : comonoid M)
+    : comonoid_data M.
+  Proof.
+    exists (mx ⊗ my).
+    split.
+    - refine (δ_{mx} ⊗^{M} δ_{my} · _).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/Tensor.v:51]: Use `#⊗` (also in the remainder of the file)

File: UniMath/CategoryTheory/Monoidal/Examples/ConstantFunctor.v [hunk 51]
```diff
@@ -0,0 +1,93 @@
...
+    : fmonoidal_lax V V (constant_functor _ _ x).
+  Proof.
+    exists constant_functor_fmonoidal_data.
+    exact constant_functor_fmonoidal_laxlaws.
+  Defined.
+
+  Context (comul_iso : is_z_isomorphism (monoid_data_multiplication _ m))
+    (counit_iso : is_z_isomorphism (monoid_data_unit _ m)).
+  Definition constant_functor_fmonoidal_strong
+    :   fmonoidal_stronglaws
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Examples/ConstantFunctor.v:65]:
```suggestion
    : fmonoidal_stronglaws
```

File: UniMath/CategoryTheory/Monoidal/Examples/ConstantFunctor.v [hunk 52]
```diff
@@ -0,0 +1,93 @@
...
+  Definition constant_functor_is_symmetric
+               (S : symmetric V)
+               (m_is_comm : pr1 S x x · monoid_data_multiplication _ m
+                            = monoid_data_multiplication _ m)
+    : is_symmetric_monoidal_functor S S constant_functor_fmonoidal.
+  Proof.
+    intro ; intro.
+    rewrite id_right.
+    apply m_is_comm.
+  Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Examples/ConstantFunctor.v:91]: Use `Qed`

File: UniMath/CategoryTheory/Monoidal/Examples/DiagonalFunctor.v [hunk 53]
```diff
@@ -0,0 +1,219 @@
...
+
+Section DiagFunctor.
+
+  Context (V : monoidal_cat).
+
+  Definition diag_functor_data
+    : functor_data V V.
+  Proof.
+    use make_functor_data.
+    - exact (λ x, x ⊗_{V} x).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Examples/DiagonalFunctor.v:32]: `⊗` and `#⊗`

File: UniMath/CategoryTheory/Monoidal/Examples/DiagonalFunctor.v [hunk 54]
```diff
@@ -0,0 +1,219 @@
...
+  Definition diag_preserves_tensor_data
+    : preserves_tensordata V V diag.
+  Proof.
+    exact (λ x y, rearrange_prod V x x y y).
+  Defined.
+
+  Definition diag_preserves_unit
+    : preserves_unit V V diag.
+  Proof.
+    exact (luinv^{V}_{I_{V}}).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Examples/DiagonalFunctor.v:68]: `mon_linvunitor`

File: UniMath/CategoryTheory/Monoidal/Examples/DiagonalFunctor.v [hunk 55]
```diff
@@ -0,0 +1,219 @@
...
+  Defined.
+
+  Definition diag_functor_fmonoidal_data
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Examples/DiagonalFunctor.v:71]: It might be good to check out https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/Monoidal/Functors.v#L1788, because this is easier to use in the bundled case.

File: UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v [hunk 56]
```diff
@@ -0,0 +1,720 @@
...
+
+Local Open Scope cat.
+
+Import MonoidalNotations.
+
+Section Rearranging.
+
+  Context {C : category} {M : monoidal C} (S : symmetric M).
+
+  Notation "x ⊗ y" := (x ⊗_{M} y).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v:28]: Use the bundled version here

File: UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v [hunk 57]
```diff
@@ -0,0 +1,720 @@
...
+    rewrite ! assoc'.
+    etrans.
+    2: {
+      apply maponpaths.
+      rewrite assoc.
+      (*
+         The following is: sym_mon_hexagon_lassociator ((C,, M),, S).
+         Difference: sym_mon_hexagon_lassociator is written in whiskered form
+       *)
+      apply (pr1 (pr222 S) _ _ _).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v:102]: Proper accessors are needed here

File: UniMath/CategoryTheory/DisplayedCats/CatIsoDisplayed.v [hunk 58]
```diff
@@ -0,0 +1,286 @@
...
+  Defined.
+
+End DisplayedCatIso.
+
+Section DisplayedCatIsoUnivalence.
+
+  Context {C : category}
+    (D : disp_cat C) (Duniv : is_univalent_disp D).
+
+  Context
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/CatIsoDisplayed.v:150]: To me, this version is much more natural and sensible than the one in the previous section. In addition, univalent displayed categories are more much common than the non-univalent ones, so I think only the version in this section should be used.

File: UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v [hunk 59]
```diff
@@ -121,61 +106,61 @@ Section Rearranging.
     apply sym_monoidal_braiding_hexagon1_variant.
   Qed.
 
-  Lemma rearrange_prod_characterization' (x y z w : C)
+  Lemma rearrange_prod_characterization' (x y z w : V)
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v:109]: I do not see a naming scheme here for the many variations on `rearrange_prod_characterization`. How about having not some primes but two natural numbers, the first for the number of primes on `rearrange_prod` to the left, the second for the number of primes on the right?

File: UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v [hunk 60]
```diff
@@ -0,0 +1,424 @@
...
+    : semi_cart_tensor_pr2 (pr1 Ccart) I_{ M} x = lu^{M}_{x}.
+  Proof.
+    refine (_ @ id_left _).
+    unfold semi_cart_tensor_pr2.
+    apply maponpaths_2.
+    apply identity_of_lwhisker_with_unit.
+  Qed.
+
+  Lemma cartesian_runitor (x : V)
+    : semi_cart_tensor_pr1 (pr1 Ccart) x I_{M} = ru^{M}_{x}.
```
[the remark this answers is not in the document]
Comment (Kfwullaert) [reply UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v:84]: I actually don't really have a preference, although, mon_runitor is nicer because the monoidal category need not be specified.

File: UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v [hunk 61]
```diff
@@ -18,100 +18,85 @@ Import BifunctorNotations.
...
-  Let ru : rightunitor_data M (monoidal_unit M) := monoidal_rightunitordata M.
-  Let α : associator_data M := monoidal_associatordata M.
-  Let luinv : leftunitorinv_data M (monoidal_unit M) := monoidal_leftunitorinvdata M.
-  Let ruinv : rightunitorinv_data M (monoidal_unit M) := monoidal_rightunitorinvdata M.
-  Let αinv : associatorinv_data M := monoidal_associatorinvdata M.
-  Let σ := pr1 S.
-
-  Definition rearrange_prod (x y z w : C)
-    : C ⟦(x ⊗_{ M} y) ⊗_{ M} (z ⊗_{ M} w), (x ⊗_{ M} z) ⊗_{ M} (y ⊗_{ M} w)⟧.
+  Definition rearrange_prod (x y z w : V)
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v:29]: In https://agda.github.io/agda-categories/, such an operation is called swapInner. Is the name taken from somewhere? They also prove that `rearrange_prod` is  but like its own inverse (modulo rearrangement of the indices):  https://agda.github.io/agda-categories/Categories.Category.Monoidal.Interchange.Symmetric.html

File: UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v [hunk 62]
```diff
@@ -0,0 +1,424 @@
...
+    exact (cartesian_monoidal_has_enough_comonoids_laws x).
+  Defined.
+
+  Definition cartesian_monoidal_has_enough_comm_comonoids
+    : ∏ x : V, is_commutative V (cartesian_monoidal_has_enough_comonoids x).
+  Proof.
+    exact (λ x, diag_is_symmetric x).
+  Qed.
+
+  Lemma cartesian_monoidal_has_unique_comonoids
```
[the remark this answers is not in the document]
Comment (Kfwullaert) [reply UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v:287]: @nmvdw I would have to show univalence first. Do you agree that I would do this in another PR?

[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v:287]: It should follow directly from these:
```
dirprod_disp_cat_is_univalent
is_univalent_dialgebra
disp_full_sub_univalent
is_univalent_sigma_disp 
```

File: UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v (hunk 61 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v:29]: swapInner is indeed a more appropriate name, it did not cross my mind. 
The name is just something that I came up with.

Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v:29]: I only think it does not conform with the UniMath coding style because of the capitalization. But swap_inner should be fine.

**Comment by rmatthes** [comment]
Beware that there is a compilation error during several commits by now.

File: UniMath/CategoryTheory/Monoidal/Examples/DiagonalFunctor.v (hunk 55 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/Monoidal/Examples/DiagonalFunctor.v:71]: Thanks, I was unaware of this! 
I do have to modify/combine certain proofs if I want to use this (because the laws are formulated no longer in whiskered form).

Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/Examples/DiagonalFunctor.v:71]: Sure. It is not needed for this PR

File: UniMath/CategoryTheory/DisplayedCats/CatIsoDisplayed.v (hunk 58 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/DisplayedCats/CatIsoDisplayed.v:150]: @nmvdw This version is now used.

Comment (nmvdw) [reply UniMath/CategoryTheory/DisplayedCats/CatIsoDisplayed.v:150]: This version makes it simpler, right?

File: UniMath/CategoryTheory/Monoidal/Examples/Sigma.v [hunk 63]
```diff
@@ -0,0 +1,355 @@
+Require Import UniMath.Foundations.All.
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Examples/Sigma.v:1]: Please a short contents overview as header info.

File: UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v [hunk 64]
```diff
@@ -0,0 +1,279 @@
+Require Import UniMath.Foundations.All.
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v:1]: Please some header info, e.g., that the builder only rests on asymmetric ingredients (Tl is in the context, Tr is then derived, and further properties of Tr come from extra assumptions on Tl, and analogously with the right unitor that is derived from the left unitor). This is all obvious to you now.

File: UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v [hunk 65]
```diff
@@ -0,0 +1,715 @@
...
+  Qed.
+
+  Lemma inner_swap_characterization03 (x y z w : V)
+    : inner_swap x y z w = inner_swap''' x y z w.
+  Proof.
+    etrans. { apply inner_swap_characterization02. }
+    apply inner_swap_characterization23.
+  Qed.
+
+  Lemma precompose_inner_swap
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v:147]:
```suggestion
  Lemma naturality_inner_swap
```
This should just be naturality between 4-ary functors (than need not be given).

File: UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v [hunk 66]
```diff
@@ -0,0 +1,715 @@
...
+      apply pathsinv0, tensor_sym_mon_braiding.
+    }
+    cbn.
+    rewrite <- (when_bifunctor_becomes_leftwhiskering V).
+    refine (_ @ tensor_comp_mor _ _ _ _).
+    apply maponpaths_2.
+    apply pathsinv0, id_right.
+  Qed.
+
+  Lemma rearrange_along_unit (x y : V)
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v:227]:
```suggestion
  Lemma inner_swap_along_unit (x y : V)
```

Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v:227]: There are still six more identifiers afterwards in the file that start with `rearrange` that should become `inner_swap`.

File: UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v [hunk 67]
```diff
@@ -0,0 +1,715 @@
...
+      apply maponpaths, mon_lunitor_triangle.
+    }
+    rewrite assoc.
+    refine (! id_left _ @ _).
+    apply maponpaths_2.
+    apply pathsinv0.
+    apply monoidal_associatorisolaw.
+  Qed.
+
+  Lemma rightwhisker_of_lunitor_with_unit (x : V)
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Structure/SymmetricDiagonal.v:332]:
```suggestion
  Lemma leftwhisker_of_lunitor_with_unit (x : V)
```

File: UniMath/CategoryTheory/Monoidal/Comonoids/Tensor.v [hunk 68]
```diff
@@ -0,0 +1,747 @@
...
+
+Section TensorOfCommutativeComonoids.
+
+  Context (V : sym_monoidal_cat).
+
+  Lemma tensor_of_comm_comonoids
+    (mx my : commutative_comonoid V)
+    : is_commutative V (tensor_of_comonoids V mx my).
+  Proof.
+    unfold disp_cat_of_commutative_comonoids.
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Comonoids/Tensor.v:715]:
```suggestion
    red.
```

File: UniMath/CategoryTheory/Monoidal/Examples/Sigma.v [hunk 69]
```diff
@@ -0,0 +1,365 @@
+(*
+In this file, we construct a displayed monoidal structure on the sigma construction (of displayed categories), given both displayed categories have a displayed monoidal structure.
+For simplicity, we assume that the most upper displayed category is locally propositional (this assumption is satisfied for the instantiations).
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Examples/Sigma.v:3]:
```suggestion
For simplicity, we assume that the upper-most displayed category is locally propositional (this assumption is satisfied for the instantiations).
```

File: UniMath/CategoryTheory/Monoidal/Comonoids/Tensor.v (hunk 68 above)
Comment (benediktahrens) [reply UniMath/CategoryTheory/Monoidal/Comonoids/Tensor.v:715]: I think tactics such as red and simpl should be avoided if possible, for performance reasons.

Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/Comonoids/Tensor.v:715]: Do you have a reason why `red` and `simpl` decrease performance? In my experience, this tends to be very case dependent.

Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/Comonoids/Tensor.v:715]: I use `red` mostly to unfold the outermost definition - without having to name it.

Comment (benediktahrens) [reply UniMath/CategoryTheory/Monoidal/Comonoids/Tensor.v:714]: > I use `red` mostly to unfold the outermost definition - without having to name it.

I believe more "precise" tactics are to be preferred; if anything, I would recommend to replace `red` by `unfold`, not the other way round. Here, I would leave the construction as is.

File: UniMath/CategoryTheory/Monoidal/Comonoids/Symmetric.v [hunk 70]
```diff
@@ -0,0 +1,103 @@
...
+  Proof.
+    use (sigma_disp_cat_monoidal_symmetric).
+    - exact disp_symmetric_comonoids.
+    - apply disp_symmetric_fullsub.
+  Defined.
+
+  Definition symmetric_cat_commutative_comonoids
+    : sym_monoidal_cat.
+  Proof.
+    Check disp_monoidal_commutative_comonoids.
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Comonoids/Symmetric.v:98]:
```suggestion
```

**Comment by rmatthes** [comment]
I still have to make a final walk through two files of this PR. Please wait for my approval that should come this afternoon.

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v [hunk 71]
```diff
@@ -0,0 +1,355 @@
...
+    Let δz := δ_{(z ,, m z) : comonoid V} : V⟦z, z ⊗ z⟧.
+    Let εx := ε_{(x ,, m x) : comonoid V} : V⟦x, monoidal_unit V⟧.
+    Let εy := ε_{(y ,, m y) : comonoid V} : V⟦y, monoidal_unit V⟧.
+    Let εz := ε_{(z ,, m z) : comonoid V} : V⟦z, monoidal_unit V⟧.
+
+    Definition make_isbinprod_from_comonoid_existence_mor
+      : V⟦z, x ⊗ y⟧
+      := δz · fx #⊗ fy.
+
+    Let k := make_isbinprod_from_comonoid_existence_mor.
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v:95]:
```suggestion
```

**Comment by rmatthes** [comment]
I made another shallow PR against @Kfwullaert 's fork.

File: UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v [hunk 72]
```diff
@@ -0,0 +1,479 @@
+(*
+In this file, we show:
+   if a symmetric monoidal category is cartesian, the forgetful functor from the category of commutative comonoids is an isomorphism of categories.
+
+The converse of this statement remains to be done.
+At this moment, one property remains to be proven. The condition is axiomatized in the context.
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v:6]:
```suggestion
```

**Review by rmatthes — APPROVED** [review]
module my small PR to the fork and my suggestions

File: UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v [hunk 73]
```diff
@@ -0,0 +1,479 @@
...
+
+  Definition cartesian_monoidal_has_enough_comonoids
+    : ∏ x : V, comonoid M.
+  Proof.
+    intro x.
+    refine (x ,, _ ,, _).
+    exact (cartesian_comonoid_laws x).
+  Defined.
+
+  (* Definition cartesian_monoidal_has_enough_commcomonoids
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v:285]: Is this statement needed?

File: UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v [hunk 74]
```diff
@@ -0,0 +1,479 @@
...
+        apply maponpaths.
+        unfold monoidal_cat_tensor_mor.
+        rewrite (when_bifunctor_becomes_rightwhiskering M).
+        apply maponpaths.
+        apply (semi_cart_to_unit_eq Ccart).
+    - apply (semi_cart_to_unit_eq Ccart).
+  Qed.
+
+  Lemma cartesian_monoidal_has_unique_comm_comonoids
+    : ∏ x : V,  iscontr (disp_cat_of_commutative_comonoids V x).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/CartesianAsComonoids.v:334]:
```suggestion
    : ∏ x : V, iscontr (disp_cat_of_commutative_comonoids V x).
```

File: UniMath/CategoryTheory/Monoidal/Comonoids/Monoidal.v [hunk 75]
```diff
@@ -0,0 +1,200 @@
...
+Local Open Scope moncat.
+
+Section MonoidalCategoryOfComonoids.
+
+  Context (V : sym_monoidal_cat).
+
+  Let V_comult : disp_monoidal (dialgebra_disp_cat _ _) V
+      := dialgebra_disp_monoidal (identity_fmonoidal V) (diag_functor_fmonoidal V).
+
+  Local Definition V_counit
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/Monoidal.v:57]: Why is this `Local Definition` rather than `Let`? You can also use `Proof.` for `Let`.

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v [hunk 76]
```diff
@@ -0,0 +1,355 @@
...
+    intro ; apply terminal_from_aug_id.
+    assumption.
+  Defined.
+
+  Section make_cartesian.
+
+    Context (pI : εI = identity (monoidal_unit V))
+      {x y z : V} (fx : V⟦z, x⟧) (fy : V⟦z, y⟧).
+
+    Let δx := δ_{(x ,, m x) : comonoid V} : V⟦x, x ⊗ x⟧.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v:84]: For `Let`: you can add the typing information on the left of the semi-colon. If you do that, then the assumptions are a bit cleaner in the context.

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v (hunk 46 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v:168]: This one did not get fixed.

File: UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v [hunk 77]
```diff
@@ -0,0 +1,286 @@
...
+
+Local Open Scope cat.
+Import MonoidalNotations.
+
+Section Construct_SymmetricMonoidal_On_LocallyProp_DisplayedCategories.
+
+  Context {C : category} {M : monoidal C} (S : symmetric M) (D : disp_cat C).
+
+  Context (T_ob : ∏ x y : C, D x → D y → D (x ⊗_{ M} y)).
+  Definition T {x y : C} (xx : D x) (yy : D y) : D (x ⊗_{ M} y) := T_ob _ _ xx yy.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v:40]: The names `T`, `Tl` and so on, are not very informative. I think `Let` is more appropriate here, because I don't think these definitions should stay in the name space.

**Review by nmvdw — APPROVED** [review]

File: UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v (hunk 77 above)
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v:40]: the index V was not even fixed in my PR to @Kfwullaert 's fork

File: UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v [hunk 78]
```diff
@@ -30,59 +30,63 @@ Require Import UniMath.CategoryTheory.Monoidal.Structure.Cartesian.
...
-  Context (T_ob : ∏ x y : C, D x → D y → D (x ⊗_{ M} y)).
-  Definition T {x y : C} (xx : D x) (yy : D y) : D (x ⊗_{ M} y) := T_ob _ _ xx yy.
+  Context (disp_tensor_ob : ∏ x y : V, D x → D y → D (x ⊗ y)).
+  Let T {x y : V} (xx : D x) (yy : D y) : D (x ⊗ y) := disp_tensor_ob _ _ xx yy.
 
-  Context (T_mor : ∏ (x y1 y2 : C) (g : C ⟦ y1, y2 ⟧) (xx : D x) (yy1 : D y1) (yy2 : D y2),
-              yy1 -->[ g] yy2 → T xx yy1 -->[ x ⊗^{ M}_{l} g] T xx yy2).
+  Context (disp_lwhisker : ∏ (x y1 y2 : V) (g : V⟦ y1, y2 ⟧) (xx : D x) (yy1 : D y1) (yy2 : D y2),
+              yy1 -->[ g] yy2 → T xx yy1 -->[ x ⊗^{V}_{l} g] T xx yy2).
   Definition Tl
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v:45]: why is this a definition of `Tr` given by `Let`?

File: UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v [hunk 79]
```diff
@@ -30,59 +30,63 @@ Require Import UniMath.CategoryTheory.Monoidal.Structure.Cartesian.
...
+              Tl xx (id_disp yy) =
+                transportb _ (bifunctor_leftid V x y) (id_disp (T xx yy))).
 
-  Context (B_inv : ∏ (x y : C) (xx : D x) (yy : D y), B x y xx yy ;; B y x yy xx = transportb _ (pr1 (pr122 S x y)) (id_disp _)).
+  Context (B_inv : ∏ (x y : V) (xx : D x) (yy : D y),
+              B xx yy ;; B yy xx = transportb _ (sym_mon_braiding_inv V x y) (id_disp _)).
 
-  Lemma Tr_preserves_id
-    {x y : C} (xx : D x) (yy : D y)
+  Lemma disp_rwhisker_preserves_id
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v:84]: Is there no risk that this unspecific identifier once clashes elsewhere? May rather a local lemma?

File: UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v [hunk 80]
```diff
@@ -108,23 +112,24 @@ Section Construct_SymmetricMonoidal_On_LocallyProp_DisplayedCategories.
...
+    : ∏ (x y1 y2 y3 : V) (g1 : V⟦ y1, y2 ⟧) (g2 : V⟦ y2, y3 ⟧) (xx : D x)
+        (yy1 : D y1) (yy2 : D y2) (yy3 : D y3)
+        (gg1 : yy1 -->[ g1] yy2) (gg2 : yy2 -->[ g2] yy3),
+      Tl xx (gg1 ;; gg2)
+      = transportb _ (bifunctor_leftcomp V x y1 y2 y3 g1 g2)
           (Tl _ gg1 ;; Tl _ gg2)).
 
-  Lemma Tr_preserves_comp
-    {x1 x2 x3 y : C} {f1 : C ⟦ x1, x2 ⟧} {f2 : C ⟦ x2, x3 ⟧} {xx1 : D x1}
+  Lemma disp_rwhisker_preserves_comp
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v:123]: idem

**Review by rmatthes — APPROVED** [review]

File: UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v (hunk 46 above)
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/Comonoids/MonoidalCartesianBuilder.v]: Still there - I overlooked it in my "review".

**Comment by rmatthes** [comment]
GitHub tells me that "this branch cannot be rebased due to conflicts". I now have the choice between a merge commit and a squash. I would prefer the former. What do @benediktahrens and @nmvdw think about this question?

**Comment by nmvdw** [comment]
> GitHub tells me that "this branch cannot be rebased due to conflicts". I now have the choice between a merge commit and a squash. I would prefer the former. What do @benediktahrens and @nmvdw think about this question?

I have no preference whether a squash or a merge commit is used.

**Comment by benediktahrens** [comment]
In general i prefer squash. When there are commits from different people, merge is also fine.

File: UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v [hunk 81]
```diff
@@ -30,59 +30,63 @@ Require Import UniMath.CategoryTheory.Monoidal.Structure.Cartesian.
...
 
-  Lemma Tr_preserves_id
-    {x y : C} (xx : D x) (yy : D y)
+  Lemma disp_rwhisker_preserves_id
+    {x y : V} (xx : D x) (yy : D y)
     : Tr yy (id_disp xx) =
-        transportb (mor_disp (T_ob x y xx yy) (T_ob x y xx yy)) (bifunctor_rightid M y x)
-          (id_disp (T_ob x y xx yy)).
+        transportb _ (bifunctor_rightid V y x) (id_disp (T xx yy)).
   Proof.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v:88]: Would `apply homset_property` solve this directly (without any setting)?

File: UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v (hunk 79 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v:84]: One could choose a `Lemma`, `Local Lemma` and `Let`. Differences:
- `Lemma`: enters the name space by default. Can cause clashes
- `Local Lemma`: enter the name space, but as a qualified version with the section name. Does not cause clashes
- `Let`: does not enter the name space. However, even if you make it opaque, it is transparent in the end-result.

For this specific identifier, a `Let` would not make sense (opaqueness). The name is very generic, so it is likely that it can cause clashes. In addition, it is something that is not needed outside of this section (I think). As such, I think a `Local Lemma` would be the most suitable.

File: UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v (hunk 81 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/Monoidal/Displayed/SymmetricMonoidalBuilder.v:88]: I'm not sure what you mean/refer to with this comment. 
The proof itself can not be solved with only applying the homset property.

**Comment by rmatthes** [comment]
I'll do a merge commit as soon as the current checks have completed successfully.
